US04109004
A solution of methanesulphonyl chloride (60 parts) in acetone (800 parts) was added dropwise to a suspension of 5,6-dichloro-benzimidazole (94 parts) in acetone (240 parts) containing triethylamine (50 parts). A precipitate of triethylamine hydrochloride was observed and the temperature rose to 40° C. The mixture was heated under reflux for 10 minutes and then stirred at room temperature for 20 hours. On pouring into cold water (4000 parts) a solid product precipitated out, which was filtered off, washed with water, dried and recrystallised from acetone (charcoal) to give 5,6-dichloro-1-(methylsulphonyl)-benzimidazole (61 parts) as pale yellow needles, melting point 191°-193° C.

reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5,6-dichloro-benzimidazole | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 5,6-dichloro-1-(methylsulphonyl)-benzimidazole | ClC1=CC2=C(N(C=N2)S(=O)(=O)C)C=C1Cl | C8H6Cl2N2O2S
